US08084614B2
A stirred solution of 3-amino-4-chlorobenzoic acid (34.2 g, 200 mmol) and urea (24 g, 400 mmol) in glacial acetic acid (200 mL) was heated at 100° C. for 24 h. The mixture was allowed to cool to room temperature and the resulting precipitate was separated by filtration, washed with water (2×100 mL) and diethyl ether (2×100 mL), then air dried to give 35 g of 4-chloro-3-ureido-benzoic acid as a grey solid that was carried on without further purification.

reactant | 3-amino-4-chlorobenzoic acid | 200 mmol, 34.2 g | NC=1C=C(C(=O)O)C=CC1Cl | C7H6ClNO2
reactant | urea | 400 mmol, 24 g | NC(=O)N | CH4N2O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 4-chloro-3-ureido-benzoic acid | 35 g | ClC1=C(C=C(C(=O)O)C=C1)NC(=O)N | C8H7ClN2O3
